US07790733B2
c) 8-Methoxy-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide
Methyl iodide (1.92 g, 14 mmol) was added to a solution of 8-methoxy-4-methyl-3,4-dihydro-1H-quinazoline-2-thione (940 mg, 5 mmol) in acetone (6 ml), and the mixture was stirred for 3 h at r.t. The precipitated title compound (1.2 g, 76%) was filtered off and was used without further purification in the next step.

reactant | Methyl iodide | 14 mmol, 1.92 g | CI | CH3I
reactant | 8-methoxy-4-methyl-3,4-dihydro-1H-quinazoline-2-thione | 5 mmol, 940 mg | COC=1C=CC=C2C(NC(NC12)=S)C | C10H12N2OS
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | 8-Methoxy-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | I.COC=1C=CC=C2C(NC(=NC12)SC)C | InChI=1S/C11H14N2OS.HI/c1-7-8-5-4-6-9(14-2)10(8)13-11(12-7)15-3;/h4-7H,1-3H3,(H,12,13);1H
